US03969365
Following the procedure of Example 1A but employing as reactants 3-methyl-1,2,4-oxadiazole-5-carboxylic acid ethyl ester and p-(β-aminoethyl)-benzenesulfonamide, there is obtained p-(β-(3-methyl-1,2,4-oxadiazole-5-carbonylamino)ethyl]-benzenesulfonamide, M.P. 218°-220°C.

reactant | 3-methyl-1,2,4-oxadiazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=NO1)C | C6H8N2O3
reactant | p-(β-aminoethyl)-benzenesulfonamide | NCCC1=CC=C(C=C1)S(=O)(=O)N | C8H12N2O2S
product | p-(β-(3-methyl-1,2,4-oxadiazole-5-carbonylamino)ethyl]-benzenesulfonamide | CC1=NOC(=N1)C(=O)NCCC1=CC=C(C=C1)S(=O)(=O)N | C12H14N4O4S
